US05602121
8-chloro-11-(4-nonyl-1-piperazinyl)dibenz[b,f][1,4]oxazepine
The mixture of 8, 11-dichlorodibenz[b,f][1,4]oxazepine (0.32 g, 1.19 mmol), 1-nonylpiperazine (0.38 g, 1.79 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (0.72 mL, 0.73 g, 4.77 mmol) in acetonitrile (15 mL) was heated at reflux for 6 h. After the mixture was concentrated, water (20 mL) and ethyl acetate (20 mL) were added. The two phases were separated and the aqueous phase was extracted with ethyl acetate (2×20 mL). The combined ethyl acetate solution was dried over magnesium sulfate and filtered. The filtrate was then concentrated in vacuo to dryness and the residue was subjected to column chromatography using ethyl acetate/hexane (1/2) as the eluent. The title compound was obtained as a white solid (0.15 g, 28%), m.p. 64°-66° C., MS 440 (M+ +1).

reactant | 8, 11-dichlorodibenz[b,f][1,4]oxazepine | 1.19 mmol, 0.32 g | ClC1=CC2=C(OC3=C(C(=N2)Cl)C=CC=C3)C=C1 | C13H7Cl2NO
reactant | 1-nonylpiperazine | 1.79 mmol, 0.38 g | C(CCCCCCCC)N1CCNCC1 | C13H28N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.77 mmol, 0.72 mL, 0.73 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 8-chloro-11-(4-nonyl-1-piperazinyl)dibenz[b,f][1,4]oxazepine | ClC1=CC2=C(OC3=C(C(=N2)N2CCN(CC2)CCCCCCCCC)C=CC=C3)C=C1 | C26H34ClN3O
